US07960552B2
A mixture of methyl 6-(4-hydroxyphenyl)-2-quinolinecarboxylate (222 g, 0.8 mol), 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-(1-methylethyl)isoxazole (292 g, 0.96 mol) and cesium carbonate (312 g, 0.96 mol) in DMF (1.5 L) was heated at 65° C. for 28 hours. Additional 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-(1-methylethyl)isoxazole (105 g, 0.34 mol) dissolved in DMF (150 mL) was added. The mixture was cooled to room temperature and poured into water (5 L) with stirring. The resulting taffy was separated from the supernatant and stirred with ethyl acetate (2.5 L) for 3 hours at room temperature. The resulting suspension was filtered and the filter cake was dried to yield methyl 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate as a solid (245 g, 56%). 1H NMR (400 MHz, DMSO-d6): δ 8.54 (d, J=9 Hz, 1H), 8.28 (d, J=1 Hz, 1H), 8.11 (m, 3H), 7.72 (d, J=9 Hz, 2H), 7.62 (d, J=8 Hz, 2H), 7.53 (m, 1H), 6.93 (d, J=9 Hz, 2H), 4.88 (s, 2H), 3.93 (s, 3H), 3.47 (m, 1H), 1.33 (d, J=7 Hz, 6H). ES-LCMS m/z 547 (M+H)+.

reactant | methyl 6-(4-hydroxyphenyl)-2-quinolinecarboxylate | 0.8 mol, 222 g | OC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC | C17H13NO3
reactant | 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-(1-methylethyl)isoxazole | 0.96 mol, 292 g | ClCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl | C13H12Cl3NO
reactant | cesium carbonate | 0.96 mol, 312 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(chloromethyl)-3-(2,6-dichlorophenyl)-5-(1-methylethyl)isoxazole | 0.34 mol, 105 g | ClCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl | C13H12Cl3NO
reactant | water | 5 L | O | H2O
solvent | DMF | 1.5 L | CN(C)C=O | C3H7NO
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | methyl 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 245 g, 56% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC)C(C)C | C30H24Cl2N2O4
